US06262045B1
11.4. 7-Chloro-1-(hydroxymethyl)-5-methyl-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one
2.5 g (66.1 mmol) of sodium borohydride are added to a solution of 4.04 g (10.6 mmol) of ethyl 7-chloro-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]-indole-1-carboxylate in 150 ml of tetrahydrofuran. 2.25 ml of methanol are gradually added, with stirring, and then the mixture is heated at reflux for 5 hours. The mixture is poured onto an ice-cold 1 M hydrochloric acid solution and an insoluble product is separated by filtration on sintered glass, which product is washed with water and with diethyl ether and then dried. 3.3 g (9.7 mmol) of compound are isolated in the form of a white solid which is used as is in the following stage.

reactant | sodium borohydride | 66.1 mmol, 2.5 g | [BH4-].[Na+]
reactant | ethyl 7-chloro-5-methyl-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]-indole-1-carboxylate | 10.6 mmol, 4.04 g | ClC=1C=CC=2C3=C(N(C2C1)C)C(N(N=C3C(=O)OCC)C3=CC=CC=C3)=O | C20H16ClN3O3
reactant | methanol | 2.25 ml | CO | CH4O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 7-Chloro-1-(hydroxymethyl)-5-methyl-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one | 9.7 mmol, 3.3 g | ClC=1C=CC=2C3=C(N(C2C1)C)C(N(N=C3CO)C3=CC=CC=C3)=O | C18H14ClN3O2
